US07713994B2
6-Furan-2-yl-4-{[4-(2-hydroxymethyl-pyrrolidin-1-ylmethyl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione
6-Bromo-4-{[4-(2-hydroxymethyl-pyrrolidin-1-ylmethyl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione (130 mg, 0.26 mmol) and 2-furyltributyltin (270 mg, 0.76 mmol) and PdCl2(PPh3)2 (30 mg) is mixed in N,N-dimethylformamide (4 mL) and degassed. The solution resulted is heated at 100° C. for 1 hour. After the mixture cooled to room temperature, the N,N-dimethylformamide is removed and the residue is purified through chromatography to afford the title compound (68 mg, 59%). MS (ESI): 444.1 (M+1)+1.

reactant | 6-Bromo-4-{[4-(2-hydroxymethyl-pyrrolidin-1-ylmethyl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione | 0.26 mmol, 130 mg | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)CN1C(CCC1)CO | C22H22BrN3O3
reactant | 2-furyltributyltin | 0.76 mmol, 270 mg | O1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
catalyst | PdCl2(PPh3)2 | 30 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-Furan-2-yl-4-{[4-(2-hydroxymethyl-pyrrolidin-1-ylmethyl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione | 68 mg, 59% | O1C(=CC=C1)C=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)CN1C(CCC1)CO | C26H25N3O4
